US04428944
0.05 part by weight of diphenyl sulfide is added to a solution of 8.9 parts by weight of 4-trifluoromethoxyphenol in 30 parts by weight of glacial acetic acid, and 6.8 parts by weight of sulfuryl chloride are then added dropwise, without cooling. The mixture is subsequently stirred at room temperature for 3 hours, the solvent is stripped off and the residue is taken up in 50 parts by weight of methylene chloride. This solution is twice washed with 50 parts by weight of saturated bicarbonate solution, and is dried and concentrated. Distillation of the residue under reduced pressure gives 9.8 parts by weight (92% of theory) of 2-chloro-4-trifluoromethoxyphenol of boiling point 70° C./13 mbar.

reactant | diphenyl sulfide | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | 4-trifluoromethoxyphenol | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-trifluoromethoxyphenol | 92% | ClC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4ClF3O2
